US08859574B2
To a solution of 5-chloro-N2-(2-fluoro-5-methyl-4-(piperidin-4-yl)phenyl)-N4-(5-methyl-1H-pyrazol-3-yl)pyrimidine-2,4-diamine (20 mg, 0.048 mmol) in MeOH (0.5 mL) was added acrylonitrile (5 mg, 0.096 mmol). The resulting mixture was stirred at room temperature for 14 h and then purified directly by preparative RP-HPLC to provide 3-(4-(4-(5-chloro-4-(5-methyl-1H-pyrazol-3-ylamino)pyrimidin-2-ylamino)-5-fluoro-2-methylphenyl)piperidin-1-yl)propanenitrile; ESMS m/z 469.2 (M+H+).

reactant | 5-chloro-N2-(2-fluoro-5-methyl-4-(piperidin-4-yl)phenyl)-N4-(5-methyl-1H-pyrazol-3-yl)pyrimidine-2,4-diamine | 0.048 mmol, 20 mg | ClC=1C(=NC(=NC1)NC1=C(C=C(C(=C1)C)C1CCNCC1)F)NC1=NNC(=C1)C | C20H23ClFN7
reactant | acrylonitrile | 0.096 mmol, 5 mg | C(C=C)#N | C3H3N
solvent | MeOH | 0.5 mL | CO | CH4O
product | 3-(4-(4-(5-chloro-4-(5-methyl-1H-pyrazol-3-ylamino)pyrimidin-2-ylamino)-5-fluoro-2-methylphenyl)piperidin-1-yl)propanenitrile | ClC=1C(=NC(=NC1)NC1=CC(=C(C=C1F)C1CCN(CC1)CCC#N)C)NC1=NNC(=C1)C | C23H26ClFN8
